US04352748
24 g Methallyl chloride is added to a mixture of 92 g toluene and 49 g concentrated sulphuric acid, keeping the temperature at 40° C. No exothermal reaction occurs. Subsequently the reaction mixture is stirred during half an hour, after which the layers are separated. The organic layer is washed neutral with soda solution, dried on MgSO4 and evaporated. The residue is distilled under diminished pressure to obtain 2-methyl-2-(p-tolyl)-propyl chloride (p-methyl-neophyl chloride) in a yield of 85%.

reactant | Methallyl chloride | 24 g | C(C(C)=C)Cl | C4H7Cl
reactant | sulphuric acid | 49 g | S(O)(O)(=O)=O | H2O4S
reactant | toluene | 92 g | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-(p-tolyl)-propyl chloride | yield of 85% | CC(CCl)(C)C1=CC=C(C=C1)C | C11H15Cl
